US08487093B2
Step 2: tert-Butyl 4-({[(2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate
Palladium on carbon (30.5 mg; 10% Pd/C) was added to a solution of tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate (151 mg, 0.33 mmol) in methanol (3 mL), and the resulting mixture was stirred under hydrogen (balloon) for 3 hours. TLC analysis showed the reaction was complete. The reaction mixture was filtered through a microfilter and the filtrate was concentrated under vacuum to afford the title compound as a yellow oil.

reactant | tert-butyl 4-({[(2S,5R)-6-(benzyloxy)-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | 0.33 mmol, 151 mg | C(C1=CC=CC=C1)ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C24H34N4O5
catalyst | Palladium on carbon | 30.5 mg | [Pd] | Pd
solvent | methanol | 3 mL | CO | CH4O
product | tert-Butyl 4-({[(2S,5R)-6-hydroxy-7-oxo-1,6-diazabicyclo[3.2.1]oct-2-yl]carbonyl}amino)piperidine-1-carboxylate | ON1[C@@H]2CC[C@H](N(C1=O)C2)C(=O)NC2CCN(CC2)C(=O)OC(C)(C)C | C17H28N4O5
